US06440995B1
4-Chloro-2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline (0.5 g, 1.7 mmol) and ethanolamine (0.61 ml, 10.2 mmol) were mixed and heated at 150-160° C. for 16 hours. The reaction mixture was cooled to room temperature and water (20 ml) was added. After decantation of water, the gummy residue was dissolved in ethyl acetate, dried over Na2SO4 and the solvent was evaporated. The residue was chromatographed over silica gel (CH2Cl2—MeOH, 9:1 then 4:1) to provide a white foam which was dissolved in MeOH (5 ml). HCl-Et2O was added to provide 2-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-4-ylamino]-ethanol hydrochloride (0.16 g, 27%) as a white solid, m.p. 130-140° C. and MS: m/e=320.3 (M+H+).

reactant | 4-Chloro-2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | 1.7 mmol, 0.5 g | ClC1=CC(=NC2=CC=CC=C12)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | ethanolamine | 10.2 mmol, 0.61 ml | C(O)CN | C2H7NO
reactant | water | 20 ml | O | H2O
reactant | HCl Et2O | Cl.CCOCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 5 ml | CO | CH4O
product | 2-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-4-ylamino]-ethanol hydrochloride | 0.16 g, 27% | Cl.C1N(CCC2=CC=CC=C12)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C20H21N3O.ClH/c24-12-10-21-19-13-20(22-18-8-4-3-7-17(18)19)23-11-9-15-5-1-2-6-16(15)14-23;/h1-8,13,24H,9-12,14H2,(H,21,22);1H
